US07105507B2
3,3-Dimethyl-2-oxa-8-azaspiro[4.5]decane
Trifluoroacetic acid (20 mL) was added to a solution of 1-(1,1-dimethylethyl) 4-(hydroxymethyl)-4-(2-methyl-2-propenyl)-1-piperidinecarboxylate (Description 90, 1.14 g, 4.2 mmol) in dichloromethane (4 mL) and the mixture was stirred at room temperature for 2 hours. The solvent was evaporated under reduced pressure and water (40 mL) was added. The pH was adjusted to 12 with aqueous sodium hydroxide (4M) and the mixture was extracted with ethyl acetate (4×40 mL). The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was dissolved in ethanol (10 mL) and ethereal hydrogen chloride (1M, 10 mL) was added. The solvent was evaporated under reduced pressure and the residue was triturated with ethyl acetate (15 mL). The solid was collected and dried in vacuo to give the title compound as a colorless solid (483 mg, 56%). m/z (ES+) 170 (M+1).

reactant | Trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-(1,1-dimethylethyl) 4-(hydroxymethyl)-4-(2-methyl-2-propenyl)-1-piperidinecarboxylate | 4.2 mmol, 1.14 g | OCC1(CCN(CC1)C(=O)OC(C)(C)C)CC(=C)C | C15H27NO3
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 3,3-Dimethyl-2-oxa-8-azaspiro[4.5]decane | 483 mg, 56% | CC1(OCC2(C1)CCNCC2)C | C10H19NO
